US08871753B2
Step A: 3,3′-Dithiodianiline
A solution of 3-aminobenzenethiol (0.85 mL, 8.0 mmol) in dimethyl sulfoxide (0.57 mL, 8.0 mmol) was heated at 85° C. for 4 h. The reaction mixture was poured into a solution of brine (25 mL) and water (25 mL) and extracted with ethyl acetate (100 mL). The organic layer was separated and washed with brine (25 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to a crude oil. This material was purified by flash column chromatography to give the desired product (0.97 g, 98%) as a yellow oil. LCMS for C12H13N2S2 (M+H)+: m/z=249.0.

reactant | 3-aminobenzenethiol | 8.0 mmol, 0.85 mL | NC=1C=C(C=CC1)S | C6H7NS
reactant | dimethyl sulfoxide | 8.0 mmol, 0.57 mL | CS(=O)C | C2H6OS
reactant | water | 25 mL | O | H2O
solvent | brine | 25 mL | [Cl-].[Na+].O
product | 3,3′-Dithiodianiline | 0.97 g, 98% | NC1=CC(=CC=C1)SSC=1C=C(N)C=CC1 | C12H12N2S2
